US04405810
p-(n-Undecyloxymethyl)benzyl alcohol (10 mmoles) is dissolved in methylene chloride and treated with pyridinium chlorochromate (12 mmoles) at room temperature. When the reaction ceases, the reaction mixture is filtered through a pad of silica gel. The solvent is evaporated from this filtrate to afford the product, p-(n-undecyloxymethyl)benzaldehyde.

reactant | p-(n-Undecyloxymethyl)benzyl alcohol | 10 mmoles | C(CCCCCCCCCC)OCC1=CC=C(CO)C=C1 | C19H32O2
reactant | pyridinium chlorochromate | 12 mmoles | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | p-(n-undecyloxymethyl)benzaldehyde | C(CCCCCCCCCC)OCC1=CC=C(C=O)C=C1 | C19H30O2
